US06919336B2
[6-(2,4-Difluoro-phenylamino)-pyridin-3-yl]-[2-methoxy-5-(2-methylsulfanyl-pyrimidin-4-yl)-phenyl]-methanone is prepared in analogy to example 11 from (5-bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanone and 2-methylsulfanyl-4-tributylstannanyl-pyrimidine in 45% yield:

reactant | (5-bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanone | BrC=1C=CC(=C(C1)C(=O)C=1C=NC(=CC1)NC1=C(C=C(C=C1)F)F)OC | C19H13BrF2N2O2
reactant | 2-methylsulfanyl-4-tributylstannanyl-pyrimidine | CSC1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
product | [6-(2,4-Difluoro-phenylamino)-pyridin-3-yl]-[2-methoxy-5-(2-methylsulfanyl-pyrimidin-4-yl)-phenyl]-methanone | 45% yield | FC1=C(C=CC(=C1)F)NC1=CC=C(C=N1)C(=O)C1=C(C=CC(=C1)C1=NC(=NC=C1)SC)OC | C24H18F2N4O2S
